US08058447B2
2,6-Dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-(4-methylpentanoyl)-1,4-dihydropyridine-3-carbonitrile
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 55.8 mg (0.53 mmol) of sodium 1-cyanoprop-1-en-2-olate, 82.4 mg (0.53 mmol) of 2-amino-7-methyloct-2-en-4-one (example 14, stage a) and 31.9 mg (0.53 mmol) of acetic acid in 5 ml of 2-propanol and heated under reflux under argon for 6 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 47 mg (22% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.53 mmol, 55.8 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 2-amino-7-methyloct-2-en-4-one | 0.53 mmol, 82.4 mg | NC(C)=CC(CCC(C)C)=O | C9H17NO
reactant | acetic acid | 0.53 mmol, 31.9 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 2,6-Dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-(4-methylpentanoyl)-1,4-dihydropyridine-3-carbonitrile | CC=1NC(=C(C(C1C#N)C=1C=CC=C2C(C=C(OC12)C)=O)C(CCC(C)C)=O)C | C24H26N2O3
